US04808736
2.4 g (19.6 mmol) of (2R)-2-methyl-3-chloropropane-1,2-diol and 4.28 g (22 mmol) of 2,5-dimethoxy-1,3,4,6-tetramethylbenzene were dissolved in 20 ml of dioxane and heated to reflux temperature within 1 hour with 1.27 g (66 mmol) of sodium hydride (80% in mineral oil) and 0.1 ml of polyethylene glycol 400 (as the phase transfer catalyst) and stirred at this temperature for 16 hours. The mixture was then treated with 50 ml of water, filtered and washed with water. The residue was recrystallized from ether/hexane and there were obtained 4.91 g of (2S)-2-methyl-4-(2,5-dimethoxy-3,4,6-trimethylphenyl)-1,2-butanediol in the form of white crystals with a melting point of 82°-84° C. and [α]D20 =+2.86° (c=1.5% in CHCl3).

reactant | (2R)-2-methyl-3-chloropropane-1,2-diol | 19.6 mmol, 2.4 g | C[C@@](CO)(CCl)O | C4H9ClO2
reactant | 2,5-dimethoxy-1,3,4,6-tetramethylbenzene | 22 mmol, 4.28 g | COC1=C(C(=C(C(=C1C)C)OC)C)C | C12H18O2
reactant | sodium hydride | 66 mmol, 1.27 g | [H-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | (2S)-2-methyl-4-(2,5-dimethoxy-3,4,6-trimethylphenyl)-1,2-butanediol | 4.91 g | C[C@@](CO)(CCC1=C(C(=C(C(=C1C)OC)C)C)OC)O | C16H26O4
